### ISSUE TITLE
Rewrite fails to disambiguate when only one option is valid

### ISSUE THREAD

**Issue by b-mehta** [leanprover/lean4#2849]
### Prerequisites

* [ ] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

Rewrite fails to disambiguate when only one option is valid

### Context

```
theorem add_succ : true = true := rfl

open Nat

#check add_succ -- Nat.add_succ
#check (add_succ : true = true) -- _root_.add_succ

example (x y : Nat) : x + (y + 1) = (x + y) + 1 := by
  rw [add_succ]
  /-
  ambiguous, possible interpretations
  _root_.add_succ : true = true

  Nat.add_succ : ∀ (n m : Nat), n + succ m = succ (n + m)
  -/
  ```
Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ambiguous.20rewrite.20when.20only.20one.20is.20valid. The equivalent in Lean 3 succeeds. Thanks to @kmill for minimising. This showed up in porting the exponential-ramsey project.

### Steps to Reproduce

Code as above.

**Expected behavior:** The rewrite succeeds and closes the goal.

**Actual behavior:** The rewrite fails.

### Versions

Lean (version 4.3.0-rc1, commit https://github.com/leanprover/lean4/commit/baa4b68a71926a722b77d4ec2cba34bfc76cc5aa, Release)
MacOS

### Additional Information

None

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
NB: This happens with other tactics as well:
```
/--
error: ambiguous term, use fully qualified name, possible interpretations [_root_.add_succ, Nat.add_succ]
-/
#guard_msgs in
example (x y : Nat) : x + (y + 1) = (x + y) + 1 := by
  apply add_succ
```

**Comment by Kha** [comment]
> Arguably it’s an issue with `#check`?

Yes, that's #5873

**Comment by Kha** [comment]
@b-mehta Was this more of a porting gotcha or are you still interested in seeing this issue fixed?

**Comment by b-mehta** [comment]
I'm still interested in seeing this issue fixed, outside of being a regression from Lean 3:

1. It's confusing behaviour to beginners to see a rewrite fail with error mentioning "ambiguous", when there's not actually an ambiguity.
2. This came up in mathlib, see eg the linked PR above.
3. If I write a term in term-mode which has an ambiguity in name resolution, Lean is able (IIUC) to disambiguate in the case that the types are enough to figure it out. So it would be nice if the same were true in rewrites.

**Comment by b-mehta** [comment]
> NB: This happens with other tactics as well:
> 
> ```
> /--
> error: ambiguous term, use fully qualified name, possible interpretations [_root_.add_succ, Nat.add_succ]
> -/
> #guard_msgs in
> example (x y : Nat) : x + (y + 1) = (x + y) + 1 := by
>   apply add_succ
> ```
> 
> Arguably it’s an issue with `#check`?

Interestingly, this looks like a new issue with #check - seemingly Kyle didn't see ambiguity in this situation (see the linked zulip thread)

**Comment by nomeata** [comment]
So would you expect that all tactics to try all possible interpretations of a name, and silently use the first that happens to make progress? Or only some of them? Would `simp` use the first one that it can use, and ignore the others, or all of them?

**Comment by b-mehta** [comment]
> So would you expect that all tactics to try all possible interpretations of a name, and silently use the first that happens to make progress?

No, but if there is exactly one interpretation which makes sense, I would expect the tactic to use that one, rather than failing with an error that there are multiple possible interpretations. If there are multiple interpretations which make sense, then an "ambiguous, possible interpretations" error is completely fine

**Comment by nomeata** [comment]
Thanks for the (heh) elaboration. My personal opinion is that I find the current behavior, with a clear phase separation between name resolution and tactic execution, more predictable and preferable. But I have noticed that I'm leaning towards more explicitness and less magic than seems to be idiomatic in at least mathlib, so I'll just let that stand and let others call this shot.

**Comment by nomeata** [comment]
And, to add, some more questions that this feature require raises:

Assuming that `rewrite [foo]` would succeed if `foo` resolves to multiple names, but exactly one of them can be rewritten with, how does that interact with tactic combinators. 

* For example, `rewrite [foo] <;> rfl` – will that work if both `foo`’s can be rewritten with, but only in one case the the next step closes the goal? 
* Would `rw [foo]` behave the same as `rewrite [foo] <;> rfl`, or differently?
* What about `tac <;> rewrite [foo]`. Does this work if there is a “globally unique” `foo` that this can be rewritten with, or can every branch make it's own decision? If the latter, what type and docstring is shown when hovering `foo`?

---


More generally, if in `rewrite [foo]` the `foo` can be understood as “bag of theorems, of which exactly one should may make sense”, then it seems prudent to make that a proper feature of its own, where a name can generally be a bag of theorems, and make good use of that in general. This is what Isabelle does – `lemmas foo_or_bar = foo bar` is a thing, and often useful. It seems odd if Lean effectively properly supported names-referring-to-sets-of-things, but then only expose it when name resolution is ambiguous due to namespaces.

Actually, we almost already have that feature, in a way, although the syntax is a bit weird:

```

open _root_ renaming Nat.le_of_lt → foo
open _root_ renaming Int.le_of_lt → foo
open _root_ renaming True.intro → foo

/--
error: ambiguous, possible interpretations ⏎
  True.intro : True
  ⏎
  @Int.le_of_lt : ∀ {a b : Int}, a < b → a ≤ b
  ⏎
  @Nat.le_of_lt : ∀ {n m : Nat}, n < m → n ≤ m
---
error: tactic 'rewrite' failed, equality or iff proof expected
  ?m.5
⊢ True
-/
#guard_msgs in
example : True := by rw [@foo]
```
(And while you can write `open _root_ renaming Nat.le_of_lt → Foo.foo`, it doesn't actually add `foo` to namespace `Foo` in a way that you can `open Foo`.)

Anyways, it’s a big design space, and I’d prefer the simplicity of asking the use to be explicit which lemma they want to use.

**Comment by kmill** [comment]
I think that this doesn't need to have quite so profound of design consequences @nomeata. The question to me is just "should kabstract be considered to be part of elaboration or not"? We have at least a couple examples of it being within the scope of elaboration (the triangle operator and elabAsElim), so it doesn't seem impossible for the product of a rw theorem elaboration to be the theorem and the motive together. This should naturally handle disambiguation in the way Bhavik would want.

Similarly, for `apply`, if we made it into an app elaborator mode like we'd discussed once in a DM, that too would naturally handle disambiguation.

**Comment by nomeata** [comment]
Maybe I am confused by what you mean, but isn’t`_root_.add_succ` is a possible interpretation of “`add_succ`” in this point? It’s an interpretation that happens to make `rw` fail, but so does `rw [mul_succ]`.

Would you say that `Nat.mul_succ` is not an interpretation of `mul_succ` in `rw [mul_succ]` if that rewrite fails?

>  More generally, does this closure mean that when I see a message "possible interpretations" in the future, I should not take this as accurate?

I understand this message as “possible interpretations of the name”, which is accurate. It does not mean “possible interpretations of the name for which rewriting succeeds”.


--

>  to exactly the tactic which is throwing the error.

This is a concept I have qualms with. Many tactics are implemented by elaboration to other tactics. Do you mean “tactic that the user wrote” or “primitive tactic” (whatever that means). 

Consider `rewrite [thmA_or_thm_B, thm2]`, where `thmA` an resolve to `thmA` or `thmB`. Assume that both rewrite, but only if `thmB` was taken, `thm2` can apply. Should this, under your design, succeeds as `rewrite [thmB, thm2]` would, or complain that `thmA_or_thmB` is ambiguous?

Or similar with `rw` – is the `rfl` inside that tactic included or not?

> In the future, should I continue to expect inconsistencies like this in elaboration?

Yes, unfortunately. Note that
```
example (x y : Nat) : x + (y + 1) = (x + y) + 1 := by
  apply add_succ x y
```
also reports “ambiguous, possible interpretations”.

It seems that term elaboration can and will use type information to resolve ambiguities, and it’s not always clear how much type information is available in a given context. But it seems that’s consistent with other features, like dot notation.

**Comment by kmill** [comment]
@b-mehta I was just reading the Lean 3 source code, and I don't see anything that indicates that `rw` was aware of choice nodes. (In Lean 3, parsing and elaboration ambiguities could be represented using "choice nodes". In Lean 4, only parsing has choice nodes.) I also checked how type inference worked for choice nodes, and Lean 3 threw an error in that case, so there are also no features that could have made this disambiguation work that I can see.

Could you please verify that the Lean 3 `rw` was able to disambiguate in the way you're saying it did? It seems possible that this is all explainable by other differences, and it would be good to be completely sure that there was a disambiguation mechanism that `rw` was using before continuing the discussion in this direction.

**Comment by digama0** [comment]
As far as I am aware, lean 3 did not handle this situation any better than lean 4.

**Comment by b-mehta** [comment]
> I understand this message as “possible interpretations of the name”, which is accurate. It does not mean “possible interpretations of the name for which rewriting succeeds”.

Hmm okay, this is convincing. 

> Could you please verify that the Lean 3 rw was able to disambiguate in the way you're saying it did?

Huh, looking at my older non-minimised example, the behaviour which I'd originally complained about seems to actually work fine now (and behaves similarly to Lean 3). 

...and investigating further, the difference happened in minimisation! The example with `pow_succ` in the linked zulip thread (seemingly) didn't disambiguate correctly, but does now, and it's because of the `protected` tag on `Nat.pow_succ`. Whereas after changing to `add_succ`, where there's no `protected` on `Nat.add_succ`, the situation changes. 
(Maybe this means `Nat.add_succ` should be `protected`, though?)

So I'm happy to consider this issue resolved. Thanks all!
